* Sky130 CMOS Inverter -- post-layout (PEX) netlist
* Extracted from Magic (inverter.ext) via ext2spice, wrapped in a .subckt so
* CharLib can characterize it. Port name/order must match config.yaml
* (cell name "inverter", ports IN OUT VDD VSS).
.subckt inverter IN OUT VDD VSS

* Devices (drain gate source body model ...)
X0 OUT IN VDD VDD sky130_fd_pr__pfet_01v8 ad=0.45  pd=2.9 as=0.4 ps=2.8 w=1   l=0.15
X1 OUT IN VSS VSS sky130_fd_pr__nfet_01v8 ad=0.225 pd=1.9 as=0.2 ps=1.8 w=0.5 l=0.15

* Extracted parasitic capacitances
C0 IN  VDD 0.09585f
C1 OUT VDD 0.10563f
C2 IN  OUT 0.03187f
C3 OUT VSS 0.22994f
C4 IN  VSS 0.53337f
C5 VDD VSS 0.70344f

.ends inverter
